US07175670B2
A) Synthesis of 2-(2-methylpiperidin-1-yl)-3,5-dinitropyridine
2.5 g (12.28 mmol) of 2-chloro-3,5-dinitropyridine, 10 ml of THF and 25 mmol of 2-methylpiperidine were placed in a round-bottomed flask. The mixture was maintained at 60° C. for 15 hours with stirring and was then poured into an ice-water mixture with stirring. The precipitate formed was filtered off by suction and dried under vacuum to constant weight. 3.09 g of yellow powder were obtained.

reactant | 2-chloro-3,5-dinitropyridine | 12.28 mmol, 2.5 g | ClC1=NC=C(C=C1[N+](=O)[O-])[N+](=O)[O-] | C5H2ClN3O4
reactant | 2-methylpiperidine | 25 mmol | CC1NCCCC1 | C6H13N
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-(2-methylpiperidin-1-yl)-3,5-dinitropyridine | 3.09 g | CC1N(CCCC1)C1=NC=C(C=C1[N+](=O)[O-])[N+](=O)[O-] | C11H14N4O4
